US06358980B1
4-But-2-ynyloxy-benzenethiol
To a solution of 11.8 g (0.045 mol) of triphenylphosphine in 10 mL of CH2Cl2 and 0.3 mL of DMF was added dropwise a solution of 4-but-2-ynyloxy-benzenesulfonyl chloride in 15 mL CH2Cl2. Stirred at room temperature for two hours, added 5 mL of 1N HCl, stirred for 30 min., and then added 15 mL of brine. The organics were separated and concentrated in vacuo. The residue was diluted with ether and filtered the insolubles. The filtrate was washed with 2.5N NaOH and the aqueous solution separated, acidified and extracted with ether. The organics were washed with H2O, brine, dried over MgSO4, filtered and concentrated in vacuo to give 1.54 g (58%) of the desired product as a pale yellow oil.

reactant | triphenylphosphine | 0.045 mol, 11.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-but-2-ynyloxy-benzenesulfonyl chloride | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 15 mL | [Cl-].[Na+].O
product | 4-But-2-ynyloxy-benzenethiol | 1.54 g, 58% | C(C#CC)OC1=CC=C(C=C1)S | C10H10OS
